US05190686
4.(1) Synthesis of p-(7-octenyloxy)benzoic acid
9.4 g of 8-bromo-1-octene, 9.0 g of ethyl p-hydroxybenzoate, and 7.6 g of potassium carbonate were refluxed in ethanol for 10 hours. Thereto added was an aqueous solution containing 2.4 g of sodium hydroxide, and then reflux was further continued for 10 hours. After conclusion of the reaction, the reaction solution was diluted with water, and the pH of the solution was lowered to 2 by dropping hydrochloric acid. The generated precipitate was collected, washed sufficiently with water, and dried, to obtain 10.8 g of the objective ether compound. (Yield: 89%)

reactant | 8-bromo-1-octene | 9.4 g | BrCCCCCCC=C | C8H15Br
reactant | ethyl p-hydroxybenzoate | 9.0 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | potassium carbonate | 7.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 2.4 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | p-(7-octenyloxy)benzoic acid | Yield: 89% | C(CCCCCC=C)OC1=CC=C(C(=O)O)C=C1 | C15H20O3
